US07176242B2
A solution of 7-bromo-1-chloroisoquinoline in propylamine (15.0 mL) was heated at 70° C. in a sealed tube overnight. The reaction mixture was concentrated under reduced pressure, then dissolved in chloroform and washed with saturated sodium bicarbonate, saturated sodium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to yield 7-bromo-2-(N-propylamino)isoquinoline (820 mg): ESI MS m/z 266 [M+H]+

reactant | 7-bromo-1-chloroisoquinoline | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
solvent | propylamine | 15.0 mL | C(CC)N | C3H9N
product | 7-bromo-2-(N-propylamino)isoquinoline | 820 mg | BrC1=CC=C2C=CN(CC2=C1)NCCC | C12H15BrN2
